US07872014B2
8-fluoro-2,3-dihydro-1,4-benzodioxine-6-carbaldehyde (0.87 g: 4.8 mmol) was dissolved in ethanol (20 ml) and sodium borohydride (0.45 g; 11.95 mmol) was added at 0° C. The reaction mixture was stirred at rt for 2 h and poured into ice-water. The pH was adjusted to 5 by adding glacial acetic acid in portions and the aqueous mixture was extracted with ethyl acetate (80 ml). The organic phase was washed with water (30 ml), brine (30 ml), dried over sodium sulfate and concentrated under vacuum to give (8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methanol (0.84 g; 95% yield) as a yellow oil. 1H NMR (400 MHz, CD3OD) δ 6.66 (dd, 1H), 6.64 (br. s, 1H), 4.44 (s, 2H), 4.26 (s, 4H)

reactant | 8-fluoro-2,3-dihydro-1,4-benzodioxine-6-carbaldehyde | 4.8 mmol, 0.87 g | FC1=CC(=CC2=C1OCCO2)C=O | C9H7FO3
reactant | sodium borohydride | 11.95 mmol, 0.45 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (8-fluoro-2,3-dihydro-1,4-benzodioxin-6-yl)methanol | 0.84 g, 95% yield | FC1=CC(=CC2=C1OCCO2)CO | C9H9FO3
